US04077982
By the method of Example 27 propionaldehyde was condensed with glycerol, and the resulting intermediate was purified by the formation of the benzoate, 5-benzoyloxy-2-ethyl-1,3-dioxane, m.p. 62°-68.5° C. The benzoate was hydrolyzed by the method of Example 27 to yield 2-ethyl-5-hydroxy-1,3-dioxane, b.p. 94°-97° C/23-25 mm Hg. By the method of Example 27 the intermediate 5-hydroxy compound was converted to 5-benzyloxy-2-ethyl-1,3-dioxane, b.p. 85°-91° C/0.025-0.03 mm Hg, nD25 1.5050. The ir and nmr spectra of the product were consistent with the assigned structure and showed the product to consist of 90% cis isomer.

reactant | propionaldehyde | C(CC)=O | C3H6O
reactant | glycerol | OCC(O)CO | C3H8O3
product | 2-ethyl-5-hydroxy-1,3-dioxane | C(C)C1OCC(CO1)O | C6H12O3
